US08022062B2
4-Bromobutyric acid vinyl ester:
To 4-bromobutyric acid (1.0 g, 6.0 mmol) in vinyl acetate (54 mL) add with stirring palladium(II) acetate (188 mg, 0.84 mmol) and continue stirring overnight at ambient temperature. Filter and concentrate in vacuo to provide the crude desired intermediate.

reactant | 4-bromobutyric acid | 6.0 mmol, 1.0 g | BrCCCC(=O)O | C4H7BrO2
reactant | vinyl acetate | 54 mL | C(C)(=O)OC=C | C4H6O2
catalyst | palladium(II) acetate | 0.84 mmol, 188 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-Bromobutyric acid vinyl ester | C(=C)OC(CCCBr)=O | C6H9BrO2
